US07579357B2
2-[2-(3-(R)-Amino-piperidin-1-yl)-5-trimethylsilylethynyl-6-oxo-6H-pyrimidin-1-ylmethyl]-benzonitrile
2-[2-(3-(R)-Amino-piperidin-1-yl)-5-bromo-6-oxo-6H-pyrimidin-1-ylmethyl]-benzonitrile (189 mg, 0.49 mmol), trimethylsilylacetylene (103 μL, 0.73 mmol), triphenylphosphine (4 mg, 0.02 mmol), and triethylamine (102 μL, 0.73 mmol) were stirred in THF (4 mL) in a flask purged with nitrogen. Dichlorobis(triphenylphosphine)palladium(II) (17 mg, 0.024 mmol) was added, and after 10 min copper iodide (2 mg) was added. The reaction stirred for 18 h at r.t. The solution was diluted with EtOAc, washed with brine, dried (MgSO4), and concentrated in vacuo. Purification by silica gel chromatography (5% MeOH/CHCl3) gave 168 mg (85%) of the title compound as a clear oil. MS (ES) [m+H] calc'd for C22H27N5OSi, 406; found 406.

reactant | 2-[2-(3-(R)-Amino-piperidin-1-yl)-5-bromo-6-oxo-6H-pyrimidin-1-ylmethyl]-benzonitrile | 0.49 mmol, 189 mg | N[C@H]1CN(CCC1)C=1N(C(C(=CN1)Br)=O)CC1=C(C#N)C=CC=C1 | C17H18BrN5O
reactant | trimethylsilylacetylene | 0.73 mmol, 103 μL | C[Si](C)(C)C#C | C5H10Si
reactant | triethylamine | 0.73 mmol, 102 μL | C(C)N(CC)CC | C6H15N
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Dichlorobis(triphenylphosphine)palladium(II) | 0.024 mmol, 17 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | 2 mg | [Cu](I)I
catalyst | triphenylphosphine | 0.02 mmol, 4 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 2-[2-(3-(R)-Amino-piperidin-1-yl)-5-trimethylsilylethynyl-6-oxo-6H-pyrimidin-1-ylmethyl]-benzonitrile | 168 mg, 85% | N[C@H]1CN(CCC1)C=1N(C(C(=CN1)C#C[Si](C)(C)C)=O)CC1=C(C#N)C=CC=C1 | C22H27N5OSi
